US07115750B1
N-(3,4-Dimethoxyphenyl)-4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzamide
WSCD (free form, 0.2 ml) was added to DMF solution (3 ml) of 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate (300 mg), 3,4-dimethoxyaniline (120 mg), HOBt (120 mg) and DMAP (100 mg) at room temperature, which was stirred for 12 hours. 10% aqueous potassium carbonate solution was added to the reaction mixture, and the resulting crystals were collected by filtration. The crystals were washed with water, then dried. The crystals were purified using alumina column chromatography (development solvent; THF), and recrystallized (THF-IPE) to give the titled compound (330 mg).

reactant | 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate | 300 mg | N1(CCCCC1)CCC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C(=O)[O-])C=C1
reactant | 3,4-dimethoxyaniline | 120 mg | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | HOBt | 120 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(3,4-Dimethoxyphenyl)-4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzamide | 330 mg | COC=1C=C(C=CC1OC)NC(C1=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCN1CCCCC1)=O | C33H40N2O4
